US08604069B2
(A-75-11) tert-Butyl 3-[2-(tert-butyldiphenylsilanyloxy)ethyl]-6-[3-(2-ethylbutyl)cyclobutyl]-4-oxo-5-hexynoate
1-(2,2-Dibromovinyl)-3-(2-ethylbutyl)cyclobutane (9.78 g) and tetrahydrofuran (100 mL) were mixed. To the mixture was added dropwise n-butyllithium (1.65 M in hexane) (39 mL) at −78° C. The mixture was stirred under ambient temperature. To the mixture was added dropwise a solution of tert-butyl 5-(tert-butyldiphenylsilanyloxy)-3-methoxymethylcarbamoylvalerate (10.6 g) in tetrahydrofuran (30 mL) at ice temperature. After stirring at ice temperature for 2 hr., saturated aqueous ammonium chloride (150 mL) was added to the reaction mixture. The mixture was extracted with ethyl acetate (150 mL, 100 mL). The combined organic layer was washed with water (75 mL) and brine (75 mL, 50 mL), then dried over sodium sulfate. The sodium sulfate was filtered off and the filtrate was concentrated in vacuo. The resultant residue was purified by silica gel column chromatography (Eluent: ethyl acetate/hexane=1/40→1/30→1/20) to give the title compound (9.70 g).

reactant | 1-(2,2-Dibromovinyl)-3-(2-ethylbutyl)cyclobutane | 9.78 g | BrC(=CC1CC(C1)CC(CC)CC)Br | C12H20Br2
reactant | n-butyllithium | 1.65 M, 39 mL | C(CCC)[Li]
reactant | tert-butyl 5-(tert-butyldiphenylsilanyloxy)-3-methoxymethylcarbamoylvalerate | 10.6 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC(CC(=O)OC(C)(C)C)C(NCOC)=O | C28H41NO5Si
reactant | ammonium chloride | 150 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | tert-Butyl 3-[2-(tert-butyldiphenylsilanyloxy)ethyl]-6-[3-(2-ethylbutyl)cyclobutyl]-4-oxo-5-hexynoate | 9.70 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC(CC(=O)OC(C)(C)C)C(C#CC1CC(C1)CC(CC)CC)=O | C38H54O4Si
